US07754744B2
Step 2: Isoquinolin-1-yl-piperidin-4-yl-amine dihydrochloride
A solution of 4-(isoquinolin-1-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.83 g, 2.54 mmol) in 4 M HCl in dioxane (100 mL) was stirred at rt for 1 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 228.6 [M+H]+.

reactant | 4-(isoquinolin-1-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.54 mmol, 0.83 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=CC2=CC=CC=C12 | C19H25N3O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | Isoquinolin-1-yl-piperidin-4-yl-amine dihydrochloride | Cl.Cl.C1(=NC=CC2=CC=CC=C12)NC1CCNCC1 | InChI=1S/C14H17N3.2ClH/c1-2-4-13-11(3-1)5-10-16-14(13)17-12-6-8-15-9-7-12;;/h1-5,10,12,15H,6-9H2,(H,16,17);2*1H
